Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:14]([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.77808094444
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8],4.24480298259
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],2.57062072132
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5][H:6],5.7439709302100015
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8].[O:9][H:10],6.412842893990001
[C:1]=[C:2]([H:3])[C:4](=[C:5]=[O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1](#[C:2][C:4](=[C:5]=[O:6])[C:7]([H:8])([H:9])[H:10])[H:3],-1.77446511485
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],2.93031396227
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:6],4.86780365154
[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.27941318809
[H:11].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.3519366657
[H:1][C:2]1=[C:3][O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]#[C:3][O:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],1.28899592689
[C:3]([H:4])[O:5][C:6][H:7].[O:1]=[C:2][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]([H:4])[O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.57384178913
[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.7458925335300006
[H:1][C:2]=[C:3]1[C:4]([H:5])=[C:6][O:7][C:8]1([H:9])[H:10]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10],0.672627865089
[C:12]([H:13])[H:14].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-6.15752441
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[O:6][C:7][C:8][C:9]([H:10])[H:11].[H:5],3.97673468658
[H:1][C:2]#[C:3][C:4]([O:5][H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[C:4]([O:5][H:6])([O:7][H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3],2.65325341131
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],1.33076377316
[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12],4.99771885254
[H:1][O:2][O:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],1.54563736739
[C:1]#[C:2][C@:3]([H:4])([C:5]#[C:6][H:7])[O:8][H:9]>>[C:1]#[C:2].[C:3]([H:4])([C:5]#[C:6][H:7])[O:8][H:9],4.27951631498
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13],5.115945450280001
[H:12].[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.29238629809
[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-3.59829213852
[H:6].[O:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2]/[C:3]([H:4])=[C:5](/[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.530698826580002
[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[O:8][C:9]([H:10])[H:11],-4.41632724008
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:5],1.5574048588
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-6.096409962640001
